US07618961B2
Ethyl [2-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-(trifluoromethoxy)benzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (29.1 mg) with purity >90%. MS (pos) m/z 411.1.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-(trifluoromethoxy)benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | Ethyl [2-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | FC(OC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)(F)F | C14H13F3N2O5S2
